US04605740
7.2 parts 30% methanolic Na-methylate solution are added to 64.5 parts 2-ethylhexylamine. 77 parts 2-carbomethoxy-7-oxabicyclo(2,2,1)hept-5-ene are added drop-wise at 30° to 35° C. during cooling. The reaction medium is then stirred for 15 hours and neutralised with 4 parts concentrated hydrochloric acid. 100 parts methylene chloride and 50 parts water are added, the organic phase separated off, and the aqueous phase extracted twice with 25 ml methylene chloride in each instance. The combined organic phases are reduced in a rotary evaporator at a bath temperature of 90° C. and a vacuum of 20 Torr. The residue is heated under a high vacuum to 110° to 120° C. (bath temperature 140° C.). On conclusion of the furane separation, the sedimentation temperature increases and the product distills over. 66.6 parts N(2-ethylhexyl)acrylamide with a boiling point of 123° C. at 0.4 Torr are obtained.

reactant | 2-ethylhexylamine | C(C)C(CN)CCCC | C8H19N
reactant | 2-carbomethoxy-7-oxabicyclo(2,2,1)hept-5-ene | C(=O)(OC)C1C2C=CC(C1)O2 | C8H10O3
reactant | hydrochloric acid | Cl | ClH
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N(2-ethylhexyl)acrylamide | C(C)C(CNC(C=C)=O)CCCC | C11H21NO
